US06770648B2
2-Mercapto 4-methyl-benzothiazole (340)
The title compound was prepared using the method of example 239, starting with 2-bromo-4-methyl-phenylamine (Acros) (27.9 g), O-ethylxanthic acid, potassium salt (Lancaster, 54 g) in DMF (250 mL). The mercaptobenzothiazole 340 was obtained as an pale brown solid (27 g). Recrystalization from CHCl3 gave pinkish white crystals (20 g).

reactant | 2-bromo-4-methyl-phenylamine | 27.9 g | BrC1=C(C=CC(=C1)C)N | C7H8BrN
reactant | O-ethylxanthic acid | C(C)OC(=S)S | C3H6OS2
reactant | potassium | 54 g | [K] | K
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 2-Mercapto 4-methyl-benzothiazole | SC=1SC2=C(N1)C(=CC=C2)C | C8H7NS2
